US06689806B1
2-Oxindole (133 mg, 1 mmol) was condensed with 1H-indole-5-carbaldehyde (145 mg, 1 mmol) using method B to give 155 mg (60%) of 3-(1H-indol-5-ylmethylene)-1,3-dihydroindol-2-one as a white solid.

reactant | 2-Oxindole | 1 mmol, 133 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 1H-indole-5-carbaldehyde | 1 mmol, 145 mg | N1C=CC2=CC(=CC=C12)C=O | C9H7NO
product | 3-(1H-indol-5-ylmethylene)-1,3-dihydroindol-2-one | 155 mg, 60% | N1C=CC2=CC(=CC=C12)C=C1C(NC2=CC=CC=C12)=O | C17H12N2O
